US04511573
A mixture of 4.5 g of 3-[2-(4-ethoxycarbonylphenoxy)ethyl]-2-(3-pyridyl)-indole in 220 ml of 2N hydrochloric acid is heated under reflux for 6 hours. After cooling the solution is made basic with 3N NaOH and extracted with ethyl acetate. The basic solution is filtered and acidifed to pH 6-7 with 3N NCl. The solid is collected and dried to give 3-[2-(4-carboxyphenoxy)-ethyl]-2-(3-pyridyl)-indole.

reactant | 3-[2-(4-ethoxycarbonylphenoxy)ethyl]-2-(3-pyridyl)-indole | 4.5 g | C(C)OC(=O)C1=CC=C(OCCC2=C(NC3=CC=CC=C23)C=2C=NC=CC2)C=C1 | C24H22N2O3
reactant | NaOH | 3N | [OH-].[Na+]
solvent | hydrochloric acid | 2N, 220 ml | Cl | ClH
product | 3-[2-(4-carboxyphenoxy)-ethyl]-2-(3-pyridyl)-indole | C(=O)(O)C1=CC=C(OCCC2=C(NC3=CC=CC=C23)C=2C=NC=CC2)C=C1 | C22H18N2O3
